US08791255B2
The product is prepared according to the procedure described in Example 68, using 200 mg of sodium [1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 257 mg of 3-bromoaniline. 51 mg of N-(3-bromophenyl)-2-[1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium [1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 200 mg | CN1C(=NC(=CC1=O)N1CCOCC1)CC(=O)[O-].[Na+]
reactant | 3-bromoaniline | 257 mg | BrC=1C=C(N)C=CC1 | C6H6BrN
product | N-(3-bromophenyl)-2-[1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 51 mg | BrC=1C=C(C=CC1)NC(CC=1N(C(C=C(N1)N1CCOCC1)=O)C)=O | C17H19BrN4O3
